US07732448B2
0.07 g of sodium hydride (60% oil suspension) was suspended in 2 ml of tetrahydrofuran. 0.3 ml of tetrahydrofuran solution of 0.11 g of 2-butyn-1-ol was added dropwise at room temperature therein, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 0.3 ml of tetrahydrofuran solution of 0.30 g of 1-(6-chloro-5-fluoropyrimidin-4-yl)-2-ethyl-hexahydro-1H-azepine at room temperature, and stirred for 9 hours at 60%. After the reaction mixture was cooled to near room temperature, the reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.31 g of 1-(6-(2-butynyloxy)-5-fluoropyrimidin-4-yl)-2-ethyl-hexahydro-1H-azepine (hereinafter, referred to as Compound (50)).

reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.11 g | C(C#CC)O | C4H6O
reactant | 1-(6-chloro-5-fluoropyrimidin-4-yl)-2-ethyl-hexahydro-1H-azepine | 0.30 g | ClC1=C(C(=NC=N1)N1C(CCCCC1)CC)F | C12H17ClFN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
product | 1-(6-(2-butynyloxy)-5-fluoropyrimidin-4-yl)-2-ethyl-hexahydro-1H-azepine | 0.31 g | C(C#CC)OC1=C(C(=NC=N1)N1C(CCCCC1)CC)F | C16H22FN3O
